US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 5-benzyloxy-8-fluoro-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.5 g) and [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine (0.45 g) as starting materials, 5-benzyloxy-N-[(4-dimethylaminophenyl)methyl]-8-fluoro-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.73 g) was obtained.

reactant | 5-benzyloxy-8-fluoro-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.5 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=C(C=C1)F)C(=O)O | C18H17FO3
reactant | [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine | 0.45 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C)C | C18H24N2
product | 5-benzyloxy-N-[(4-dimethylaminophenyl)methyl]-8-fluoro-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.73 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=C(C=C1)F)C(=O)N(C1=CC=C(C=C1)C(C)C)CC1=CC=C(C=C1)N(C)C | C36H39FN2O2
